US04089976
Preparation of 1,2,3,4-Tetrahydro-4-acetoxy-1-naphthylurea (cis and trans isomeric mixture).
To 10 ml of acetic anhydride 2.0 g of 1,2,3,4-tetrahydro-4-hydroxy-1-naphthylurea (cis/trans) is added and the mixture stirred for 1 hour. The mixture is poured into water and the title compound collected by filtration. Evaporation of the mother liquor in vacuo affords additional title compound.

reactant | acetic anhydride | 10 ml, 2.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,2,3,4-tetrahydro-4-hydroxy-1-naphthylurea | OC1CCC(C2=CC=CC=C12)NC(=O)N | C11H14N2O2
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-4-acetoxy-1-naphthylurea | C(C)(=O)OC1CCC(C2=CC=CC=C12)NC(=O)N | C13H16N2O3
